US05216020
Step D: Preparation of 2,3-Dihydrothieno[2,3-b]thiophene-1,1-dioxide
A solution of Oxone® (570 g, 0.92 mol) in H2O (2 L) was added to a stirred solution of 2,3-dihydrothieno[2,3-b]thiophene (44 g, 0.31 mol) in methanol (1 L). The reaction was stirred for 1.5 h at room temperature, and then extracted with ethyl acetate (5×1 L). The combined extracts were washed with brine, dried over MgSO4, filtered, and concentrated in vacuo to give a soft solid. This was treated with n-butyl chloride and filtered to give the title compound as a light tan solid (35 g, 65%). 1H NMR (300 MHz,DMSO-d6) 3.30(2H,t), 3.95(2H,t), 7.10(1H,d), 8.05(1H,d).

reactant | Oxone | OOS(=O)[O-].[K+]
reactant | 2,3-dihydrothieno[2,3-b]thiophene | 0.31 mol, 44 g | S1CCC2=C1SC=C2 | C6H6S2
reactant | n-butyl chloride | C(CCC)Cl | C4H9Cl
solvent | H2O | 2 L | O | H2O
solvent | methanol | 1 L | CO | CH4O
product | 2,3-Dihydrothieno[2,3-b]thiophene-1,1-dioxide | 35 g, 65% | S1(CCC2=C1SC=C2)(=O)=O | C6H6O2S2
